US04017620
Each of 7,8-dimethyl-6-phenyl-2-piperdinocarbonyl-4H-thieno[3,2-f]-s-triazolo[1,5-a][1,4]diazepine and 6-(2-chlorophenyl)-8-ethyl-4H-thieno[3,2-f]-s-triazolo[1,5-a]-[1,4]diazepine-2-carboxamide is treated with 70% m-chloroperbenzoic acid in the same manner as in a) to give 7,8-dimethyl-6-phenyl-2-piperidinocarbonyl-4H-thieno[3,2-f]-s-triazolo-[1,5-a][1,4]diazepine-5-oxide, as colorless prisms melting at 213° to 214° C. and 2-carbamoyl-6-(2-chlorophenyl)-8-ethyl-4H-thieno[3,2-f]-s-triazolo[1,5-a][1,4]diazepine-5-oxide as colorless needles melting at 247° to 248° C, repectively.

reactant | 7,8-dimethyl-6-phenyl-2-piperdinocarbonyl-4H-thieno[3,2-f]-s-triazolo[1,5-a][1,4]diazepine | CC1=C(SC2=C1C(=NCC=1N2N=C(N1)C(=O)N1CCCCC1)C1=CC=CC=C1)C | C22H23N5OS
reactant | 6-(2-chlorophenyl)-8-ethyl-4H-thieno[3,2-f]-s-triazolo[1,5-a]-[1,4]diazepine-2-carboxamide | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(S3)CC)N=C(N2)C(=O)N | C17H14ClN5OS
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
product | 7,8-dimethyl-6-phenyl-2-piperidinocarbonyl-4H-thieno[3,2-f]-s-triazolo-[1,5-a][1,4]diazepine-5-oxide | CC1=C(SC2=C1C(=[N+](CC=1N2N=C(N1)C(=O)N1CCCCC1)[O-])C1=CC=CC=C1)C | C22H23N5O2S
